US04851410
1-Methyl-3-amino-5-[3-(4-piperidinomethylpyrazol-1-yloxy)propylamino]-1,2,4-triazole
5 g of 3-(4-piperidinomethylpyrazol-1-yloxy)-propylamine and 4.9 g of methyl N-cyano-1-methyl-2-(phenylmethylene)-hydrazinecarboximidothioate are combined, and heated at 70° C. for 1 hour. Thereafter, the reaction mixture is taken up with 40 ml of 1N hydrochloric acid, stirred for 1 hour at room temperature, rendered alkaline with sodium hydroxide solution and extracted with methylene chloride. The residue which remains after the solvent has been expelled is chromatographed over neutral Al2O3 (activity level III), using methylene chloride/3% strength methanol as the mobile phase. The oily title compound is reacted with tartaric acid in isopropanol to give an amorphous solid.

reactant | 3-(4-piperidinomethylpyrazol-1-yloxy)-propylamine | 5 g | N1(CCCCC1)CC=1C=NN(C1)OCCCN | C12H22N4O
reactant | methyl N-cyano-1-methyl-2-(phenylmethylene)-hydrazinecarboximidothioate | 4.9 g | C(#N)N=C(SC)N(N=CC1=CC=CC=C1)C | C11H12N4S
reactant | sodium hydroxide | [OH-].[Na+]
solvent | hydrochloric acid | 1N, 40 ml | Cl | ClH
product | 1-Methyl-3-amino-5-[3-(4-piperidinomethylpyrazol-1-yloxy)propylamino]-1,2,4-triazole | CN1N=C(N=C1NCCCON1N=CC(=C1)CN1CCCCC1)N | C15H26N8O
